*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_SVOD_REGULATOR_lpe.spi
#else
.include ../../../work/xsch/LELO_SVOD_REGULATOR.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-4

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
+ sky130_fd_pr__pfet_01v8__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8__pjunction_mult = 1.0009e+0

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD_0V8  VDD_0V8  VSS  dc {VDD}
VOUT_0V8 VOUT_0V8 VSS  pwl 0 0.7 10m 0.7 20m 0.9
VOUT_1V8 VOUT_1V8 VSS  pwl 0 1.7 10m 1.7 20m 1.9
VCLK     NCLK     VSS  pulse(0 0.8 0 1n 1n 20u 40u)

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 1u 0


tran 1u 20m
write
quit


.endc

.end
